US05932571
Synthesis of 4-(1-(2-(fur-2-ylmethoxy)ethyl)-1H-benzimidazol-2 -yl)[1,4]diazepane
Combine 1-ethoxycarbonyl-4-(1-(2-(fur-2-ylmethoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (1 mmol), potassium hydroxide (1.2 mmol), and isopropanol (20 mL). Heat to reflux. After 18 hours, evaporate in vacuo to give a residue. Combine the residue and water. Extract with dichloromethane. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | 1-ethoxycarbonyl-4-(1-(2-(fur-2-ylmethoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 1 mmol | C(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOCC=1OC=CC1)C=CC=C2 | C22H28N4O4
reactant | potassium hydroxide | 1.2 mmol | [OH-].[K+]
reactant | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 4-(1-(2-(fur-2-ylmethoxy)ethyl)-1H-benzimidazol-2 -yl)[1,4]diazepane | O1C(=CC=C1)COCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C19H24N4O2
